US04211867
To a solution of 34.86 g (0.15 mole) of N-(1-methyl-2-pyrrolidinylidene)-N'-phenylthiourea in 500 ml of acetone is added 21.3 g (0.15 mole) of iodomethane in acetone. The solution is refluxed for 1/2 hour and allowed to stand at room temperature for an additional hour. A solid, crystallizes upon cooling (ice bath). Following recrystallization from methanol-isopropanol, pure methyl N-(1-methyl-2-pyrrolidinylidene)-N'-phenylcarbamimidothioate hydroiodide is obtained; m.p. 145°-147° C.

reactant | N-(1-methyl-2-pyrrolidinylidene)-N'-phenylthiourea | 0.15 mole, 34.86 g | CN1C(CCC1)=NC(=S)NC1=CC=CC=C1 | C12H15N3S
reactant | iodomethane | 0.15 mole, 21.3 g | IC | CH3I
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | methyl N-(1-methyl-2-pyrrolidinylidene)-N'-phenylcarbamimidothioate hydroiodide | I.CN1C(CCC1)=NC(=NC1=CC=CC=C1)SC | InChI=1S/C13H17N3S.HI/c1-16-10-6-9-12(16)15-13(17-2)14-11-7-4-3-5-8-11;/h3-5,7-8H,6,9-10H2,1-2H3;1H
